US09108977B2
To a solution of 270 mg of t-butyl 5-cyclopropyl-4-[2-(2,6-difluoro-4-formylphenoxy)ethyl]-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate in 6 ml of MeOH was added 30 mg of sodium borohydride, followed by stirring at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc)) to obtain 220 mg of t-butyl 5-cyclopropyl-4-{2-[2,6-difluoro-4-(hydroxymethyl)phenoxy]ethyl}-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate as a white solid.

reactant | t-butyl 5-cyclopropyl-4-[2-(2,6-difluoro-4-formylphenoxy)ethyl]-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 270 mg | C1(CC1)C1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)OCCN2CCOC2=C(C=C(C=C2F)C=O)F | C29H34F2N2O5
reactant | sodium borohydride | 30 mg | [BH4-].[Na+]
solvent | MeOH | 6 ml | CO | CH4O
product | t-butyl 5-cyclopropyl-4-{2-[2,6-difluoro-4-(hydroxymethyl)phenoxy]ethyl}-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 220 mg | C1(CC1)C1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)OCCN2CCOC2=C(C=C(C=C2F)CO)F | C29H36F2N2O5
